US03995039
By replacing the 1-amidino-4-(4-pyridyl)-5-aminopyrazole in Example 1C with an equivalent quantity of 1-amidino-4-(4-pyrimidinyl)-5-aminopyrazole there is obtained an 80% yield of 4-amino-8-(4-pyrimidinyl)-pyrazolo-[1,5-a][1,3,5]triazine which separates from boiling dimethylformamide in crystals melting at about 340° C. (dec.).

reactant | 1-amidino-4-(4-pyridyl)-5-aminopyrazole | C(N)(=N)N1N=CC(=C1N)C1=CC=NC=C1 | C9H10N6
reactant | 1-amidino-4-(4-pyrimidinyl)-5-aminopyrazole | C(N)(=N)N1N=CC(=C1N)C1=NC=NC=C1 | C8H9N7
product | 4-amino-8-(4-pyrimidinyl)-pyrazolo-[1,5-a][1,3,5]triazine | 80% yield | NC1=NC=NC=2N1N=CC2C2=NC=NC=C2 | C9H7N7
